US06340679B1
(b) (2S)-2-(Naphthalene-1-sulfonylamino)-3-{4-[3-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-propoxy]-phenyl}-propionic acid tert-butyl ester
61 mg of 4-{4-[(2S)-2-tert-butoxycarbonyl-2-(naphthalene-1-sulfonylamino)-ethyl]-phenoxy}-butyric acid were dissolved in tetrahydrofuran and 14 mg of 1,4,5,6-tetrahydropyrimidin-2-ylamine, 0.103 ml of diisopropylethylamine and 49.7 mg of 7-azabenzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) were added. The reaction mixture was stirred overnight, and the solvent was removed in vacuo. The residue was dissolved in dichloromethane and washed with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution. The organic phase was dried with sodium sulfate, filtered and the solvent was removed in vacuo. The residue was chromatographed on reversed-phase (C-18) silica gel eluting with a gradient of 10-90% acetonitrile in water. Yield 31 mg. MS (FAB+): m/e=595.3 (M+H)+.

reactant | 4-{4-[(2S)-2-tert-butoxycarbonyl-2-(naphthalene-1-sulfonylamino)-ethyl]-phenoxy}-butyric acid | 61 mg | C(C)(C)(C)OC(=O)[C@H](CC1=CC=C(OCCCC(=O)O)C=C1)NS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C27H31NO7S
reactant | diisopropylethylamine | 0.103 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-azabenzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 49.7 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | 1,4,5,6-tetrahydropyrimidin-2-ylamine | 14 mg | N1C(=NCCC1)N | C4H9N3
product | (2S)-2-(Naphthalene-1-sulfonylamino)-3-{4-[3-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)-propoxy]-phenyl}-propionic acid tert-butyl ester | C(C)(C)(C)OC([C@H](CC1=CC=C(C=C1)OCCCC(NC=1NCCCN1)=O)NS(=O)(=O)C1=CC=CC2=CC=CC=C12)=O | C31H38N4O6S
